US06200976B1
a. Methyl (4-cyano-phenyl)-acetate
30.0 g (0.15 mol) of 4-bromomethyl-benzonitrile, 2.0 ml (0.12 mol) of iron pentacarbonyl, 29.0 g potassium carbonate, 10.0 ml mesitylene and 250 ml absolute methanol are placed in a pressure vessel and about 3.5 l carbon monoxide gas is introduced. The reaction mixture is shaken for 16 hours at ambient temperature, mixed with water, neutralised with hydrochloric acid and extracted with ethyl acetate. The combined organic extracts are washed with sodium hydrogen carbonate solution, dried and evaporated down. The residue is chromatographed on silica gel and eluted with petroleum ether/ethyl acetate (9:1, 8:2 and 7:3). The desired fractions are combined and evaporated down.

reactant | 4-bromomethyl-benzonitrile | 0.15 mol, 30.0 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | potassium carbonate | 29.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | mesitylene | 10.0 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | carbon monoxide | about 3.5 l | [C]=O | CO
reactant | hydrochloric acid | Cl | ClH
catalyst | iron pentacarbonyl | 0.12 mol, 2.0 ml | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Fe]
solvent | water | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | Methyl (4-cyano-phenyl)-acetate | C(#N)C1=CC=C(C=C1)CC(=O)OC | C10H9NO2
